US06156752
B. 1-(N-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-piperazine
A solution of 1-benzyl-4-(N-methyl-8-azabicyclo[3,2,1]oct-3-yl)-piperazine hydrochloride (14.8 g, 36.4 mmol) in methanol (150 ml) and 6N HCl (32 ml) was hydrogenated at a pressure of 2.0 atm (30 psi) in the presence of 20% palladium hydroxide on carbon (1.5 g) for 12 h. The mixture was then filtered through a pad of celite. The celite pad was washed with MeOH (50 ml) The filtrate and the washings were combined and concentrated to afford a yellow viscous oil. This oil was dissolved in 2N NaOH (150 ml) and to the solution was dropwise added CBZCl (10.4 g, 72.8 mmol) under ice bath cooling. The mixture was stirred at 0° C. for 5 h. To the mixture was dropwise added 2N HCl at 0° C. to pH 1. The aqueous solution was washed with EtOAc (50 ml×2) to remove bis-(benzyloxycarbonyl)piperazine. The aqueous layer was concentrated in vacuo to give a Z-protected compound. This was dissolved in MeOH (150 ml) and 6N HCl (32 ml) was hydrogenated in the presence of 20% palladium hydroxide on carbon (1.5 g) for 12 h. The mixture was basified with 6N NaOH to pH10. The mixture was filtered through a celite pad and the pad was washed with MeOH (50 ml). The filtrate and the washings were combined and concentrated. The residue was dried azeotropically with EtOH and then toluene. The residue was dissolved in EtOH (150 ml) and insoluble inorganic material was filtered off. The filtrate was concentrated in vacuo to give a white solid and the solid was washed with EtOH-Et2O (1:50) to give the title compound as a white solid (6.4 g, 84%).

reactant | 1-benzyl-4-(N-methyl-8-azabicyclo[3,2,1]oct-3-yl)-piperazine hydrochloride | 36.4 mmol, 14.8 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C1CC2CCC(C1)N2C
reactant | CBZCl | 72.8 mmol, 10.4 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
solvent | methanol | 150 ml | CO | CH4O
solvent | HCl | 6N, 32 ml | Cl | ClH
solvent | NaOH | 2N, 150 ml | [OH-].[Na+]
solvent | MeOH | 150 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 1.5 g | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on carbon | 1.5 g | [OH-].[OH-].[Pd+2]
solvent | NaOH | 6N | [OH-].[Na+]
solvent | HCl | 6N, 32 ml | Cl | ClH
solvent | HCl | 2N | Cl | ClH
product | 1-(N-Methyl-8-azabicyclo[3.2.1]oct-3-yl)-piperazine | 6.4 g, 84% | CN1C2CC(CC1CC2)N2CCNCC2 | C12H23N3
